US20010047099A1
D. 3,4,6-Trichloropyridine-2-carboxylic acid
To methyl 3,4,6-Trichloropicolinate (3.57 g, 14.85 mmol) in 20 mL of methanol was added 1N NaOH (14.85 mL, 14.85 mmol). The reaction mixture was stirred at room temperature for 1 hr and then concentrated to dryness in vacuo. 100 mL each of diethyl ether and H2O were added. Aqueous layer was acidified with 1N HCl until pH=2. Methylene chloride was added and the aqueous phase was extracted with additional CH2Cl2 (2×100 mL). The combined extracts were dried (MgSO4) and concentrated to give 3.13 g of a white solid. 1H NMR(CDCl3): δ 7.50 (s, 1H).

reactant | methyl 3,4,6-Trichloropicolinate | 14.85 mmol, 3.57 g | ClC=1C(=NC(=CC1Cl)Cl)C(=O)OC | C7H4Cl3NO2
reactant | NaOH | 14.85 mmol, 1N, 14.85 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 3,4,6-Trichloropyridine-2-carboxylic acid | 3.13 g | ClC=1C(=NC(=CC1Cl)Cl)C(=O)O | C6H2Cl3NO2
